US07259179B2
N-[(1R)-1-Phenylethyl]-6-(4-phenyl-1H-imidazol-1-yl)pyrazin-2-amine
In a procedure analogous to example 2, reaction of 6-chloro-N-[(1R)-1-phenylethyl]pyrazin-2-amine (180 mg, 0.77 mmol) and 4-phenylimidazole (122 mg, 0.85 mmol) furnished the product (176 mg, 67%).

reactant | 6-chloro-N-[(1R)-1-phenylethyl]pyrazin-2-amine | 0.77 mmol, 180 mg | ClC1=CN=CC(=N1)N[C@H](C)C1=CC=CC=C1 | C12H12ClN3
reactant | 4-phenylimidazole | 0.85 mmol, 122 mg | C1(=CC=CC=C1)C=1N=CNC1 | C9H8N2
product | N-[(1R)-1-Phenylethyl]-6-(4-phenyl-1H-imidazol-1-yl)pyrazin-2-amine | 176 mg, 67% | C1(=CC=CC=C1)[C@@H](C)NC1=NC(=CN=C1)N1C=NC(=C1)C1=CC=CC=C1 | C21H19N5
